US07208526B2
Ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide (8.5 g, 38.8 mmol) and 4-chloroiodoanisole (7.87 g, 33.0 mmol) was dissolved in N,N-dimethylformamide (65 ml). Palladium acetate (139 mg, 0.62 mmol) and triphenylphosphine (357 mg, 1.36 mmol) was added to the reaction followed by triethylamine (12.5 ml, 89.3 mmol). The reaction was flushed with nitrogen and heated at 140° C. for 16 hours. The reaction was cooled to room temperature and quenched with 1N HCl (250 ml). The aqueous solution was extracted with ethyl acetate (3×200 ml). The organic solution was dried over MgSO4, filtered and concentrated in vacuo to afford a solid. The solid was dissolved in dichloromethane and purified by dry flash chromatography (SiO2, heptane to 1:1 heptane: ethyl acetate). The fractions were combined to afford (E)-2-(4-chloro-phenyl)-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide (5.0 g, 46% yield).

reactant | Ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 38.8 mmol, 8.5 g | CC(CC(C)(C)C)(C)NS(=O)(=O)C=C | C10H21NO2S
reactant | 4-chloroiodoanisole | 33.0 mmol, 7.87 g | ClC1=CC(=C(C=C1)OC)I | C7H6ClIO
reactant | triethylamine | 89.3 mmol, 12.5 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Palladium acetate | 0.62 mmol, 139 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 1.36 mmol, 357 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (E)-2-(4-chloro-phenyl)-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 5.0 g, 46% yield | CC(CC(C)(C)C)(C)NS(=O)(=O)\C=C\C1=CC=C(C=C1)Cl | C16H24ClNO2S
